US07651630B2
225 mL of 2.67 M butyllithium hexane solution was added dropwise to THF (500 mL) solution containing 96.0 g of 1-(2-butenoxy)-2,3-difluorobenzene under vigorous stirring at −50° C. or lower, while keeping the internal temperature, and then the stirring was continued for 1 hour at −50° C. While keeping the internal temperature, THF (60 mL) solution containing 63.3 g of trimethyl borate was added dropwise. The stirring was continued for 30 minutes while keeping the temperature, and then the temperature was increased to 0° C. While keeping the internal temperature, 120 mL of water was added dropwise, and then 160 mL of 15% hydrogen peroxide solution was further added dropwise. The stirring was continued for 1 hour at 0° C. The solution was heated to room temperature, and the stirring was further continued for 2 hours. Then, saturated saline was added to separate the organic phase, and extraction was performed from the water phase with toluene (twice). The organic phase was collected, then washed with 10% sodium thiosulfate aqueous solution, 3M hydrochloric acid, water, saturated aqueous solution of sodium hydrogencarbonate, and saturated saline in this order, and dried over anhydrous magnesium sulfate. The solvent was evaporated. The obtained residue was purified by column chromatography, and was subjected to recrystallization, to thereby obtain 42.7 g of 4-(2-butenoxy)-2,3-difluorophenol in the form of pale yellow needle-like crystals (E/Z ratio=99/1, according to 1H-NMR analysis).

reactant | butyllithium hexane | 2.67 M, 225 mL | CCCCCC.C(CCC)[Li]
reactant | 1-(2-butenoxy)-2,3-difluorobenzene | 96.0 g | C(C=CC)OC1=C(C(=CC=C1)F)F | C10H10F2O
reactant | trimethyl borate | 63.3 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrogen peroxide | 160 mL | OO | H2O2
solvent | water | 120 mL | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 4-(2-butenoxy)-2,3-difluorophenol | 42.7 g | C(C=CC)OC1=C(C(=C(C=C1)O)F)F | C10H10F2O2
